US07601716B2
8-(4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one
4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with 1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one as in General Procedure 10 to give the title compound. LCMS: m/z=661.03 (M+H+); retention time=0.86 minutes.

reactant | 4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C(=O)O)C=C3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | 1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
product | 8-(4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C(=O)N2CCC4(C(NCN4C4=CC=CC=C4)=O)CC2)C=C3)C1)C(F)(F)F | C35H32ClF3N6O2
